US04659362
3-Hydroxy-5-(2,4,6-trimethylpyrimidin-5-yl)-2-butyrylcyclohex-2-en-1-one (0.29 g) was stirred with O-ethylhydroxylamine hydrochloride (0.1 g) and sodium acetate trihydrate (0.14 g) in ethanol (30 ml) at room temperature for 15 hr. The mixture was poured into a saturated aqueous salt solution (50 ml), which was subsequently extracted with ethyl acetate. The dried (Na2SO4) organic extract was evaporated to give 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(2,4,6-trimethylpyrimidin-5-yl)cyclohex-2-en-1-one as a colourless oil. Pmr spectrum (CDCl3 ; δ in ppm): 1.01 (3H, t); 1.34 (3H, t); ca 1.64 (2H, m); ca 2.3-3.8 (7H, m); 2.59 (6H, s); 2.63 (3H, s); 4.13 (2H, q); 10.66 (1H,s).

reactant | 3-Hydroxy-5-(2,4,6-trimethylpyrimidin-5-yl)-2-butyrylcyclohex-2-en-1-one | 0.29 g | OC1=C(C(CC(C1)C=1C(=NC(=NC1C)C)C)=O)C(CCC)=O | C17H22N2O3
reactant | O-ethylhydroxylamine hydrochloride | 0.1 g | Cl.C(C)ON
reactant | sodium acetate trihydrate | 0.14 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(2,4,6-trimethylpyrimidin-5-yl)cyclohex-2-en-1-one | C(C)ON=C(CCC)C=1C(CC(CC1O)C=1C(=NC(=NC1C)C)C)=O | C19H27N3O3
